US05234928
Ethyl 1-(4-bromo-2-fluorophenyl)methyl-6-chloro-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetate
Into 250 ml of dried dimethylformamide were dissolved 10 g of ethyl 6-chloro-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetate, and 4.86 g of potassium carbonate were added and 10.40 g of 4-bromo-2-fluorobenzyl bromide were added under stirring. After stirring for 1 hour at 60° C., the reaction mixture was poured into 400 ml of ice water and the crystals were collected by filtration. They were recrystallized from ethanol to obtain 12.0 g of title compound. m.p. 145°-146° C.

reactant | ethyl 6-chloro-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetate | 10 g | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(=O)OCC)=O | C12H11ClN2O4
reactant | potassium carbonate | 4.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-2-fluorobenzyl bromide | 10.40 g | BrC1=CC(=C(CBr)C=C1)F | C7H5Br2F
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | Ethyl 1-(4-bromo-2-fluorophenyl)methyl-6-chloro-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetate | 12.0 g | BrC1=CC(=C(C=C1)CN1C(N(C(C2=CC(=CC=C12)Cl)=O)CC(=O)OCC)=O)F | C19H15BrClFN2O4
